US05360928
N-formyl-O-(t-butyl) serine Fluoride
N-formyl serine (1 mmole) in dry CH2Cl2 under nitrogen is treated with cyannuric fluoride (8 mmol) and pyridine (1 mmol) to form the above-identified product.

reactant | N-formyl serine | 1 mmole | C(=O)N[C@@H](CO)C(=O)O | C4H7NO4
reactant | fluoride | 8 mmol | [F-]
reactant | pyridine | 1 mmol | N1=CC=CC=C1 | C5H5N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-formyl-O-(t-butyl) serine Fluoride | C(=O)N[C@@H](COC(C)(C)C)C(=O)F | C8H14FNO3
